US04316046
The procedure of Example 3 is repeated except that only 10 ml. of acetic acid is charged to the reaction vessel, thereby increasing the concentration of the phenyl mercuric acetate and phenyl iodoso diacetate reactants in the liquid. At the end of the 0.25 hour of reaction at 120° C., phenyl acetate yield is found to be increased to 68%, at a phenyl mercuric acetate conversion of about 72% and a phenyl acetate selectivity of about 94%.

reactant | phenyl mercuric acetate | CC(=O)O[Hg]C1=CC=CC=C1
reactant | phenyl iodoso diacetate | C(C)(=O)OC1=CC=CC=C1.C(C)(=O)OI=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | phenyl acetate | C(C)(=O)OC1=CC=CC=C1 | C8H8O2
